### PR TITLE
[Merged by Bors] - feat port: Data.Multiset.Powerset

### PR DESCRIPTION
**Pull request by ChrisHughes24**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Multiset/Powerset.lean [hunk 1]
```diff
@@ -0,0 +1,336 @@
...
+#align multiset.revzip_powerset_aux Multiset.revzip_powersetAux
+
+theorem revzip_powersetAux' {l : List α} ⦃x⦄ (h : x ∈ revzip (powersetAux' l)) : x.1 + x.2 = ↑l :=
+  by
+  rw [revzip, powersetAux', ← map_reverse, zip_map, ← revzip] at h
+  simp at h; rcases h with ⟨l₁, l₂, h, rfl, rfl⟩
+  exact Quot.sound (revzip_sublists' _ _ _ h)
+#align multiset.revzip_powerset_aux' Multiset.revzip_powersetAux'
+
+--Porting note: I don't understans why `{α : Type u}` is necessary here
```
Comment (jcommelin) [inline Mathlib/Data/Multiset/Powerset.lean:141]:
```suggestion
--Porting note: I don't understand why `{α : Type u}` is necessary here
```

File: Mathlib/Data/Multiset/Powerset.lean [hunk 2]
```diff
@@ -0,0 +1,336 @@
...
+
+theorem revzip_powersetAux_perm {l₁ l₂ : List α} (p : l₁ ~ l₂) :
+    revzip (powersetAux l₁) ~ revzip (powersetAux l₂) :=
+  by
+  haveI := Classical.decEq α
+  simp [fun l : List α => revzip_powersetAux_lemma l revzip_powersetAux, coe_eq_coe.2 p]
+  exact (powersetAux_perm p).map _
+#align multiset.revzip_powerset_aux_perm Multiset.revzip_powersetAux_perm
+
+/-! ### powerset_len -/
```
Comment (jcommelin) [inline Mathlib/Data/Multiset/Powerset.lean:173]:
```suggestion
/-! ### powersetLen -/
```

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
